US04391627
Methyl 3-Aminosulfonylbenzothiophene-2-carboxylate
A solution of 6 g of 3-tert-butylaminosulfonylbenzothiophene-2-carboxylate acid in 100 ml of methanol was saturated with anhydrous hydrogen chloride and then heated to reflux for three hours. The mixture was evaporated in vacuo to half of its volume and the residue poured into 200 g of ice and filtered to yield the desired product melting at 150°-154°. The infrared absorption spectrum shown by this material was qualitatively equivalent to that of the product of Example 4.

reactant | 3-tert-butylaminosulfonylbenzothiophene-2-carboxylate | 6 g | C(C)(C)(C)NS(=O)(=O)C1=C(SC2=C1C=CC=C2)C(=O)[O-]
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 3-Aminosulfonylbenzothiophene-2-carboxylate | NS(=O)(=O)C1=C(SC2=C1C=CC=C2)C(=O)OC | C10H9NO4S2
